US05958918
A. 2-[[1-(2-Cyanopyridine-4-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-(7-methoxynaphthalene-2-sulfonyl)amino]-N-phenethylacetamide
The title compound is prepared as described in EXAMPLE 127, Part C using 2-[[1-(2-cyan-pyridine-4-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-(7-methoxy-naphthalene-2-sulfonyl)amino]acetic acid in place of 2-[[1-(5-cyanothiophene-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-(7-methoxynaphthalene-2-sulfonyl)amino-]acetic acid and with phenethylamine instead of NH4OH. The crude product is purified by column chromatography eluting with gradient of 50% EtOAc/CH2Cl2 to 2% MeOH/50% EtOAc/CH2Cl2 to afford the title compound as a white solid.

reactant | 2-[[1-(2-cyan-pyridine-4-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-(7-methoxy-naphthalene-2-sulfonyl)amino]acetic acid | C(#N)C1=NC=CC(=C1)CN1C([C@H](CC1)N(CC(=O)O)S(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C24H22N4O6S
reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
product | 2-[[1-(2-Cyanopyridine-4-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-(7-methoxynaphthalene-2-sulfonyl)amino]-N-phenethylacetamide | C(#N)C1=NC=CC(=C1)CN1C([C@H](CC1)N(CC(=O)NCCC1=CC=CC=C1)S(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C32H31N5O5S
